reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[H:8][H:10].[N:1](=[C:2]1\[O:3][C@:4]1([C:5](=[O:6])[H:11])[H:9])\[H:7],109.62719034509001
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[H:10][H:12].[O:1]([C:2](=[C:3]=[C:4]=[C:5]([C:6](=[O:7])[H:13])[H:11])[H:9])[H:8],75.1392117399555
[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6]>>[N:1](=[C:2])[H:6].[N:3]([C:4](=[O:5])[H:9])([H:7])[H:8],83.8207605926778
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[C:5][H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1](/[C:2](=[C:4](/[C:3]([H:10])([H:11])[H:12])[C:5][H:13])[H:9])([H:6])([H:7])[H:8],89.49779891340401
[C:1](=[C:2]([N:6]([C@@:3]1([H:12])[C:4]([H:10])=[N:5]1)[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])[H:9]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]#[N:5])([H:12])[N:6]1[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],55.1438987972628
[C:1]([C:2]([C:3][C:5]([O:6][H:18])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],8.882060243530162
[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3]([O:4][H:12])=[C:5](\[O:6][H:13])[H:11])[H:10])([H:7])([H:8])[H:9],65.36939814199799
[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([N:2]([C:3]([O:4][H:10])=[C:5]([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],63.39334935369289
[C:1]([O:2][C:3]([N:7]=[C:6]=[C:4]([C:5]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],54.34833701673529
[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][C:3]([O+:5]=[C-:4][H:11])([H:9])[H:10])([H:6])([H:7])[H:8],103.03041316743999
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[H:10])([C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])[H:9],81.6315954335934
[C:1]([C:2]([C:3]#[N:4])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([N+:4]#[C-:3])([H:8])[H:9])([H:5])([H:6])[H:7],59.61057885958421
[O:1]([C@:2]1([H:7])[C@:3]2([H:8])[C:4]([H:9])([H:10])[C@@:5]1([H:12])[O:6]2)[H:11]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],71.866373473592
[C:2]1([C:5]#[C:6][H:12])=[C:4]([H:11])[C:3]1([H:8])[H:9].[O:1]([H:7])[H:10]>>[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],47.736897657355804
[O:1]([C:2]1=[N:3][N:6]1/[C:5](=[N:4]/[H:8])[H:9])[H:7]>>[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7],18.274977220852506
[C:1]([C:2]1([H:9])[C:3]([H:11])=[C:4]1[H:12])([H:6])([H:7])[H:8].[O:5]([H:10])[H:13]>>[C:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])([H:6])([H:7])[H:8],45.4418326537018
[O:1]([C@@:2]([C:3][H:10])([C@@:7]1([H:15])[C@@:4]([O:5][H:12])([H:11])[C:6]1([H:13])[H:14])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],9.876582479507888
[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C:1]([O:2][H:13])([H:7])([H:8])[H:9].[C:5](=[N:6][H:12])([H:10])[H:11],74.1511892453796
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C:2][C:3]([C:4]([O:5][C:6](=[O:7])[H:13])([H:9])[H:12])([H:10])[H:11])[H:8],57.3571504437876
[N:1](=[C:2](/[N+:3](=[C-:4][O:5][H:9])[H:8])[H:7])\[H:6]>>[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6],35.49201462109149
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5](=[O:6])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[H:16][H:18],84.4849603211916
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O+:6]=[C-:5][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],83.96332902415041
[C:1]([C:2](=[C:3]([H:11])[H:12])[C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:7])([H:8])[H:9].[H:10][H:13]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],80.34725539476729
[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[C:3]=[C:4]([H:9])[H:10])[C:5]#[N:6])([H:7])[H:8],64.2021860735171
[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C@:4]([C:5]([H:16])([H:17])[H:18])([H:15])[C:6][N:7]1[H:8]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],64.1612197037159
